US03993679
N,N'-(2-Chloro-m-phenylene)dioxamic acid
Diethyl N,N'-(2-chloro-m-phenylene)dioxamate (0.50 gram) is heated at reflux in 1.0N aqueous sodium hydroxide (10 ml.) for 1 hour. The reaction mixture is diluted with water (15 ml.). Concentrated hydrochloric acid is added to pH 3 and the solid product collected by filtration (0.27 grams, M.P. >320°).

reactant | Diethyl N,N'-(2-chloro-m-phenylene)dioxamate | 0.50 gram | ClC1=C(C=CC=C1NC(C(=O)OCC)=O)NC(C(=O)OCC)=O | C14H15ClN2O6
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1.0N, 10 ml | [OH-].[Na+]
solvent | water | 15 ml | O | H2O
product | N,N'-(2-Chloro-m-phenylene)dioxamic acid | ClC1=C(C=CC=C1NC(C(=O)O)=O)NC(C(=O)O)=O | C10H7ClN2O6
